US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylic acid
A solution of ethyl 7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylate (389 mg, 0.85 mmol) in THF-water 3:1 (5 mL) is treated with LiOH x H2O (126 mg, 3 mmol) and stirred at room temp. for 4 h. The reaction mixture is concentrated and acidified with 1 N HCl (pH 4). The colorless precipitate is collected by filtration yielding the title product.

reactant | ethyl 7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylate | 0.85 mmol, 389 mg | ClC1=CC=C2C(=CC(=NC2=C1)C(=O)OCC)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C23H22ClFN4O3
reactant | LiOH | 3 mmol, 126 mg | [Li+].[OH-]
solvent | THF water | 5 mL | C1CCOC1.O
product | 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylic acid | ClC1=CC=C2C(=CC(=NC2=C1)C(=O)O)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C21H18ClFN4O3
